nfet_w6u_l5 Id-Vds sweep, Vg=3V
.include ../models/lib_main_clean.spice
.option numdgt=6
.temp 27

Vd vd 0 0
Vg vg 0 3
X1 vd vg 0 nfet_w6u_l5

.dc Vd -3 5 0.01
.print dc v(vd) i(Vd)
.control
run
set filetype=ascii
set wr_singlescale
set wr_vecnames
let id_vd = -i(Vd)
wrdata ../results/nfet_w6u_l5_idvds_vg3.dat id_vd
write ../results/nfet_w6u_l5_idvds_vg3.raw
.endc
.end
