nfet_w6u_l5 Id-Vg sweep, Vd=2.0V
.include ../models/lib_main_clean.spice
.option numdgt=6
.temp 27

Vd vd 0 2.0
Vg vg 0 0
X1 vd vg 0 nfet_w6u_l5

.dc Vg -3 3 0.01
.print dc v(vg) i(Vd)
.control
run
set filetype=ascii
set wr_singlescale
set wr_vecnames
let id_vd = -i(Vd)
wrdata ../results/nfet_w6u_l5_idvg_vd2p0.dat id_vd
write ../results/nfet_w6u_l5_idvg_vd2p0.raw
.endc
.end
